US06358960B1
Benzyl 2′-(tetrazol-5-yl)-2-biphenylcarboxylate
To a solution of benzyl 2′-cyano-2-bipheylcarboxylate (560 mg) in toluene (10 ml), azidotrimethyltin (810 mg) was added. The mixture was refluxed for 12 hours. The reaction mixture was concentrated. 5% aqueous solution of potassium fluoride (4 ml) was added to the residue. The solution was filtered. The filtrate was diluted with ethyl acetate, and the solution was washed with a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1→chloroform:methanol=10:1) to give the title compound (545 mg) having the following physical data.

reactant | benzyl 2′-cyano-2-bipheylcarboxylate | 560 mg | C(#N)C1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)OCC1=CC=CC=C1 | C21H15NO2
reactant | azidotrimethyltin | 810 mg | N(=[N+]=[N-])[Sn](C)(C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Benzyl 2′-(tetrazol-5-yl)-2-biphenylcarboxylate | 545 mg | N1N=NN=C1C1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)OCC1=CC=CC=C1 | C21H16N4O2
